US04598091
1. Stilbene Synthesis
29 grams (0.2 mole) of 4-chlorobenzaldehyde were dissolved in 300 ml of absolute dioxane and treated at about 10° C. under nitrogen with 33 ml of TiCl4. There were added 39 grams of zinc dust to the golden suspension whereupon the suspension became a black lilac color. The mixture was heated under reflux for 4-5 hours and after cooling off hydrolyzed with 10% K2CO3 solution and extracted with ether. The organic phase was dried over MgSO4, the solvent rotated off and the stilbene recrystallized.

reactant | 4-chlorobenzaldehyde | 0.2 mole, 29 grams | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
catalyst | TiCl4 | 33 ml | Cl[Ti](Cl)(Cl)Cl
catalyst | zinc | 39 grams | [Zn] | Zn
product | Stilbene | C1(=CC=CC=C1)C=CC1=CC=CC=C1 | C14H12
